US07915258B2
2,4-Dichloro-N-methoxy-N-methylbenzamide (XIII)
A mixture of 32.6 g of N-methoxymethanamine hydrochloride and 91.2 ml of triethylamine in 500 ml of DCM is cooled in an ice bath, and then 47 ml of 2,4-dichlorobenzoyl chloride are added slowly and the mixture is left to stir while allowing the temperature to rise to AT. After stirring for 1 hour at AT, water is added to the reaction mixture, the mixture is extracted with DCM, the organic phase is dried over Na2SO4 and the solvent is evaporated under vacuum. 53 g of the expected compound are obtained.

reactant | N-methoxymethanamine hydrochloride | 32.6 g | Cl.CONC
reactant | triethylamine | 91.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichlorobenzoyl chloride | 47 ml | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | water | O | H2O
solvent | DCM | 500 ml | C(Cl)Cl | CH2Cl2
product | 2,4-Dichloro-N-methoxy-N-methylbenzamide | 53 g | ClC1=C(C(=O)N(C)OC)C=CC(=C1)Cl | C9H9Cl2NO2
